US06660744B1
To a solution of cis-3-{4-[amino(phenyl)methyl]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (50 mg, 0.10 mmol), phenylacetaldehyde (13 mg) and glacial acetic acid (0.013 mL) in 1,2-dichloroethane (1 mL) under nitrogen was added sodium triacetoxyborohydride (2 equivs., 43 mg). The solution was stirred for 18 h then concentrated in vacuo, partitioned between dichloromethane (10 mL) and saturated aqueous NaHCO3 (10 mL) and the organic layer separated. The aqueous layer was further extracted with dichloromethane (4×10 mL) and the combined organic layers were dried over anhydrous magnesium sulfate and evaporated to dryness. Purification was effected using mass actuated preparative RP-HPLC (Micromass/Gilson, Hypersil BDS C18, 5 μm, 100×21.2 mm column; 0-100% acetonitrile and 0.05M ammonium acetate, buffered to pH 4.5, over 12.5 min at 25 mL/min) to afford 1-[4-(4-methylpiperazino)cyclohexyl]-3-{4-[(phenethylamino)(phenyl)methyl]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine (28 mg); RP-HPLC (10 to 90% CH3CN in 0.1 N aqueous ammonium acetate, buffered to pH 4.5, over 12 min at 2 mL/min using a Waters Symmetry C18, 250×4.6 mm column) Rt=12.269 min, 95.2%; m/z (MH+) 601.3.

reactant | cis-3-{4-[amino(phenyl)methyl]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.10 mmol, 50 mg | NC(C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)C2=CC=CC=C2 | C29H36N8
reactant | phenylacetaldehyde | 13 mg | C1(=CC=CC=C1)CC=O | C8H8O
reactant | acetic acid | 0.013 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 43 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | 1-[4-(4-methylpiperazino)cyclohexyl]-3-{4-[(phenethylamino)(phenyl)methyl]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 28 mg | CN1CCN(CC1)C1CCC(CC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)C(C2=CC=CC=C2)NCCC2=CC=CC=C2 | C37H44N8
